US03998954
A mixture of tetrahydrohomophthalic acid (9.2 g., 0.05 mole) and methoxyamine hydrochloride (4.25 g., 0.05 mole) in 125 ml. of xylene is refluxed for 90 minutes, with water collected in Dean Stark trap as it formed. The reaction mixture is cooled and concentrated by vacuum to one-half its original volume, then diluted with ethyl acetate, washed with water and dried over sodium sulfate. Recrystallization from isopropanol and ethanol, followed by drying at 100° C. for 4 hours yields 2-methoxy-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione.

reactant | tetrahydrohomophthalic acid | 0.05 mole, 9.2 g | C(CC1C(C(=O)O)CCC=C1)(=O)O | C9H12O4
reactant | methoxyamine hydrochloride | 0.05 mole, 4.25 g | Cl.CON
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2-methoxy-5,6,7,8-tetrahydroisoquinoline-1,3(2H,4H)-dione | CON1C(C=2CCCCC2CC1=O)=O | C10H13NO3
